US07691882B2
3-(3-(4-Cyclohexyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (3 mL) solution of (4-cyclohexyloxy-phenyl)-acetohydroximoyl chloride (150 mg, 0.56 mmol) described in Manufacturing Example 79-1-4 and 3-ethynyl-pyridin-2-ylamine (42 mg, 0.357 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (195 μL, 1.4 mmol), which was stirred for 4 hours at 50° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=4:1-2:1) to obtain the title compound (37 mg, 19%).

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | (4-cyclohexyloxy-phenyl)-acetohydroximoyl chloride | 0.56 mmol, 150 mg | C1(CCCCC1)OC1=CC=C(C=C1)CC(=NO)Cl | C14H18ClNO2
reactant | 3-ethynyl-pyridin-2-ylamine | 0.357 mmol, 42 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.4 mmol, 195 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(4-Cyclohexyloxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 37 mg, 19% | C1(CCCCC1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H23N3O2
